US07947686B2
Step 1. 3-Cyano-4-hydroxy-1,2,5,6-tetrahydro-pyridine-1-carboxylic acid tert-butyl ester
To a refluxing solution of 206 g potassium tert-butoxide in 2 L of toluene, 200 mL of 3,3′-iminodipropionitrile was dropped in 40 min under nitrogen stream. The suspension was refluxed for 30 min. while stirring. Then, 400 mL of water was added, followed by 600 mL of 37% HCl. The two-phase solution was stirred at 80° C. for 30 min., cooled at room temperature, and finally ca. 1 L of toluene were added. The acidic two-phase solution was cooled on an ice bath and treated with 1 L of 28% NaOH. The basic two-phase solution thus obtained was cooled and treated with 388 g of di-tert-butyl dicarbonate [(Boc)2O]. The mixture was kept under stirring for 2.5 h at room temperature, then the resulting suspension was cooled and brought to acidic pH by adding dropwise 660 mL of 37% HCl. The two phases were separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over sodium sulfate and evaporated to dryness to give 330.9 g of a light yellow solid.

reactant | potassium tert-butoxide | 206 g | CC(C)([O-])C.[K+]
reactant | HCl | 600 mL | Cl | ClH
reactant | NaOH | 1 L | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 388 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 660 mL | Cl | ClH
reactant | 3,3′-iminodipropionitrile | 200 mL | N(CCC#N)CCC#N | C6H9N3
solvent | toluene | 2 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | ca. 1 L | C1(=CC=CC=C1)C | C7H8
solvent | water | 400 mL | O | H2O
product | 3-Cyano-4-hydroxy-1,2,5,6-tetrahydro-pyridine-1-carboxylic acid tert-butyl ester | 330.9 g | C(C)(C)(C)OC(=O)N1CC(=C(CC1)O)C#N | C11H16N2O3
